US05550258
After 10.5 g of (RS)-2-methyl-4-methylidene-3-(2,2,2-trifluoroethyl)-1-t-butyldimethylsilyloxy-2-cyclopentene was dissolved in 50 ml of dry tetrahydrofuran, a mixture of 10.5 ml of a 1M tetrabutylammonium fluoride/tetrahydrofuran solution and 5 ml of hydrofluoric acid was added under cooling and stirred at ambient temperatures for twelve hours. The reaction solution was then added to 100 ml of an ice-cooled 5% aqueous oxalic acid, and extracted with diethyl ether (300 ml×3 times). The combined ether layer was washed successively with a saturated sodium hydrogencarbonate solution and a saturated sodium chloride solution, and dried over anhydrous magnesium sulfate. After removal of the solvent under reduced pressure, the residue was treated by silica gel column chromatography (eluent: n-hexane:ethyl acetate=3:1 (v/v)) to yield 5.27 g of (RS)-2-methyl-4-methylidene-3-(2,2,2-trifluoroethyl)cyclopent-2-en-1-ol.

reactant | (RS)-2-methyl-4-methylidene-3-(2,2,2-trifluoroethyl)-1-t-butyldimethylsilyloxy-2-cyclopentene | 10.5 g | CC=1C(CC(C1CC(F)(F)F)=C)O[Si](C)(C)C(C)(C)C | C15H25F3OSi
reactant | tetrabutylammonium fluoride tetrahydrofuran | 1M | [F-].C(CCC)[N+](CCCC)(CCCC)CCCC.O1CCCC1
reactant | hydrofluoric acid | 5 ml | F | FH
reactant | oxalic acid | C(C(=O)O)(=O)O | C2H2O4
solvent | tetrahydrofuran | 50 ml | O1CCCC1 | C4H8O
product | (RS)-2-methyl-4-methylidene-3-(2,2,2-trifluoroethyl)cyclopent-2-en-1-ol | 5.27 g, Yield 80% | CC=1C(CC(C1CC(F)(F)F)=C)O | C9H11F3O
